US05122523
20.7 mg of L-N-[(2R or S)-5-ethylthio-2-(1-naphthylmethyl)pentanoyl]norleucine was dissolved in 0.5 ml of dry DMF. Then, 17.4 μl of triethylamine, 12.9 μl of DPPA and 20 mg of (2RS,4S,5S)-5-amino-2-ethyl-4-hydroxy-7-methyloctanoic acid isobutylamide monohydrochloride was added thereto under stirring at -15° C. The mixture was stirred at the same temperature for one hour and then at 5° C. overnight. The reaction solution was diluted with 20 ml of ethyl acetate, washed with water and with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=50/1) to obtain 16.9 mg of (2RS,4S,5S)-5-{L-N-[(2R or S)-5-ethylthio-2-(1-naphthylmethyl)pentanoyl]norleucyl}amino-2-ethyl-4-hydroxy-7-methyloctanoic acid isobutylamide as colorless solid.

reactant | norleucine | N[C@@H](CCCC)C(=O)O | C6H13NO2
reactant | triethylamine | 17.4 μl | C(C)N(CC)CC | C6H15N
reactant | DPPA | 12.9 μl | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | (2RS,4S,5S)-5-amino-2-ethyl-4-hydroxy-7-methyloctanoic acid isobutylamide monohydrochloride | 20 mg | Cl.C(C(C)C)NC(C(C[C@@H]([C@H](CC(C)C)N)O)CC)=O
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | amino-2-ethyl-4-hydroxy-7-methyloctanoic acid isobutylamide | C(C(C)C)NC(C(CC(CCC(C)C)O)(CC)N)=O | C15H32N2O2
